US06897231B2
B. 1-[3-(4-fluorophenyl)-1H-indazol-5-yl]ethan-1-one
To a solution of 1-[3-(4-fluorophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazol-5-yl]ethan-1-one (100 mg, 0.30 mmol) in methanol (30 mL) was added 6 N HCl (30 mL). The solution was stirred at room temperature for 4.5 hours when the methanol was removed under vacuo and the solution made basic with saturated Na2CO3. The suspension was then filtered and the product dried to give the title compound (83 mg, 100% yield). 1H NMR (DMSO-d6) δ 8.64 (s, 1H), 8.1 (m, 2H), 7.97 (d, 1H), 7.67 (d, 1H), 7.40 (t, 2H), 2.69 (s, 3H); ES-MS (m/z) 255 [M+1]+.

reactant | 1-[3-(4-fluorophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazol-5-yl]ethan-1-one | 0.30 mmol, 100 mg | FC1=CC=C(C=C1)C1=NN(C2=CC=C(C=C12)C(C)=O)C1OCCCC1 | C20H19FN2O2
reactant | HCl | 6 N, 30 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 1-[3-(4-fluorophenyl)-1H-indazol-5-yl]ethan-1-one | 83 mg, 100% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(C)=O | C15H11FN2O
